US06787534B2
After stirring 2-bromo-6-nitrobenzaldehyde (30.4 g), magnesium oxide (75 g) and dimethyl sulfoxide (11.3 ml) sufficiently for 1 minute, diethyl (cyanomethyl)phosphonate (25.8 ml) was added thereto and the mixture was stirred for further 2 hours. After the completion of stirring, the mixture was left stand overnight. Then, ethyl acetate was added thereto, and the mixture was stirred and then filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography (ethyl acetate), to give 32 g of 3-(2-bromo-6-nitrophenyl)-2-propenenitrile (E-isomer:Z-isomer=3:1).

reactant | 2-bromo-6-nitrobenzaldehyde | 30.4 g | BrC1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | magnesium oxide | 75 g | [O-2].[Mg+2]
reactant | dimethyl sulfoxide | 11.3 ml | CS(=O)C | C2H6OS
reactant | diethyl (cyanomethyl)phosphonate | 25.8 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-bromo-6-nitrophenyl)-2-propenenitrile | 32 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])C=CC#N | C9H5BrN2O2
